US07495001B2
B] (4-tert-Butoxycarbonylamino-naphthalen-1-yloxy)-acetic acid ethyl ester
3.33 g (12.8 mmol) of 4-hydroxy-naphthalen-1-yl-carbamic acid tert-butyl ester was dissolved in 60 ml of acetone and treated at 0° C. subsequently with 4.60 g (1.1 eq.) of cesium carbonate, 0.107 g (0.05 eq.) of KI, and 1.42 ml (1.0 eq.) of ethyl bromoacetate. After vigorous stirring for 1 h at ambient temperature, the solvent was evaporated and the residue redissolved in AcOEt. Washing with water, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=75/25), yielded 4.28 g of the title product as off-white crystals.

reactant | 4-hydroxy-naphthalen-1-yl-carbamic acid tert-butyl ester | 12.8 mmol, 3.33 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)O)=O | C15H17NO3
reactant | cesium carbonate | 4.60 g, 1.1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 1.42 ml, 1.0 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | (4-tert-Butoxycarbonylamino-naphthalen-1-yloxy)-acetic acid ethyl ester | 4.28 g | C(C)OC(COC1=CC=C(C2=CC=CC=C12)NC(=O)OC(C)(C)C)=O | C19H23NO5
